US08247596B2
To a solution of 4.27 g of methyl 2-(acetylthio)-2-(1,4-dioxaspiro[4.5]dec-8-yl)acetate in 30 ml of methanol was added 3.14 g of a 28% solution of sodium methoxide in methanol at 0° C. under a nitrogen atmosphere. To the mixture was added 4.31 g of 3,3,3-trifluoro-1-iodopropane, and the mixture was stirred at room temperature for 1 hour and then at 70° C. for 1 hours. The reaction mixture was cooled to room temperature, and 100 ml of water was added thereto. The mixture was concentrated to a total amount of about 100 ml under reduced pressure, followed by extraction with 100 ml of ethyl acetate twice. Organic layers were combined, washed with 100 ml of an aqueous saturated sodium chloride solution, dried over sodium sulfate, filtered, and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 3.60 g of methyl 2-(1,4-dioxaspiro[4.5]dec-8-yl)-2-(3,3,3-trifluoropropylthio)acetate (hereinafter, referred to as the present compound (8)) represented by the formula:

reactant | methyl 2-(acetylthio)-2-(1,4-dioxaspiro[4.5]dec-8-yl)acetate | 4.27 g | C(C)(=O)SC(C(=O)OC)C1CCC2(OCCO2)CC1 | C13H20O5S
reactant | sodium methoxide | C[O-].[Na+]
reactant | 3,3,3-trifluoro-1-iodopropane | 4.31 g | FC(CCI)(F)F | C3H4F3I
reactant | water | 100 ml | O | H2O
solvent | methanol | 30 ml | CO | CH4O
product | methyl 2-(1,4-dioxaspiro[4.5]dec-8-yl)-2-(3,3,3-trifluoropropylthio)acetate | 3.60 g | O1CCOC12CCC(CC2)C(C(=O)OC)SCCC(F)(F)F | C14H21F3O4S
